US06011174
47.2 g of (2RS,3SR)-3-(4-phenoxyphenyl)-5-phenylpentan-2-ol was dissolved in 470 ml of vinyl acetate, and 19.4 ml of triethylamine was added. Then, 4.7 g of immobilized lipase (Toyothium LIP) was added, followed by stirring at 30° C. for 2 days. The enzyme was filtered off and then, washed with ethyl acetate. The filtrate and the washing liquid were put together, and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=10/1→5/1) to obtain 23.8 g of (2R,3S)-2-acetoxy-3-(4-phenoxyphenyl)-5-phenylpentane and 22.2 g of the above identified compound, respectively, as colorless oily substances. Further, the absolute configuration of the above-identified compound was determined by Mosher method (J. Am. Chem. Soc., vol. 113, p. 4092 (1991)).

reactant | (2RS,3SR)-3-(4-phenoxyphenyl)-5-phenylpentan-2-ol | 47.2 g | O(C1=CC=CC=C1)C1=CC=C(C=C1)C(C(C)O)CCC1=CC=CC=C1 | C23H24O2
reactant | triethylamine | 19.4 ml | C(C)N(CC)CC | C6H15N
reactant | vinyl acetate | 470 ml | C(C)(=O)OC=C | C4H6O2
product | (2R,3S)-2-acetoxy-3-(4-phenoxyphenyl)-5-phenylpentane | 23.8 g | C(C)(=O)O[C@H](C)[C@@H](CCC1=CC=CC=C1)C1=CC=C(C=C1)OC1=CC=CC=C1 | C25H26O3
